US08202858B2
[2-(Cyclopropylmethyl-amino)-ethyl]-carbamic Acid Tert-butyl Ester
Potassium hydrogen carbonate (220 mg, 2.2 mmol) and (bromoethyl)cyclopropane (270 mg, 2.0 mmol) were added to a solution of tert-butyl-N-(2-aminoethyl)carbamate (320 mg, 2.0 mmol) in THF (10 ml). The mixture was heated at 66° C. for 20 h and solvents were concentrated in vacuo. The residue was dissolved in chloroform, washed with water, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 1% triethylamine:4% methanol:95% chloroform) to yield the title compound (130 mg, 30%).

reactant | Potassium hydrogen carbonate | 2.2 mmol, 220 mg | C(O)([O-])=O.[K+]
reactant | (bromoethyl)cyclopropane | 2.0 mmol, 270 mg | BrCCC1CC1 | C5H9Br
reactant | tert-butyl-N-(2-aminoethyl)carbamate | 2.0 mmol, 320 mg | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [2-(Cyclopropylmethyl-amino)-ethyl]-carbamic Acid Tert-butyl Ester | 130 mg, 30% | C(C)(C)(C)OC(NCCNCC1CC1)=O | C11H22N2O2
